US09216173B2
To a mixture of N-(tert-butoxycarbonyl)-O-ethylserine (5.3 g, 22 mmol) and potassium carbonate (6.3 g, 45 mmol) in DMSO (80 mL) was added iodomethane (6.5 g, 45 mmol) at room temperature. After 12 hours, the mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified via chromatography on silica gel to afford methyl N-(tert-butoxycarbonyl)-O-ethylserinate. MS ESI calc'd. for C11H22NO5 [M+H]+ 248. found 248. 1H NMR (400 MHz, CDCl3) δ 5.36 (d, J=8.0 Hz, 1H), 4.42-4.39 (m, 1H), 3.84-3.81 (m, 1H), 2.75 (s, 3H), 3.64-3.60 (m, 1H), 3.49-3.45 (m, 2H), 1.45 (s, 9H), 1.15 (t, J=7.2 Hz, 3H).

reactant | N-(tert-butoxycarbonyl)-O-ethylserine | 22 mmol, 5.3 g | C(C)(C)(C)OC(=O)N[C@@H](COCC)C(=O)O | C10H19NO5
reactant | potassium carbonate | 45 mmol, 6.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 45 mmol, 6.5 g | IC | CH3I
solvent | DMSO | 80 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | methyl N-(tert-butoxycarbonyl)-O-ethylserinate | C(C)(C)(C)OC(=O)N[C@@H](COCC)C(=O)OC | C11H21NO5
